US07612114B2
6-{2-{[6-(2-Azepan-1-ylethoxy)pyridin-3-ylmethyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and 6-(2-azepan-1-ylethoxy)nicotinic acid hydrochloride according to an analogous synthetic method to Example 152, [6-(2-azepan-1-ylethoxy)pyridin-3-ylmethyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (287 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (230 mg).

reactant | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | 6-(2-azepan-1-ylethoxy)nicotinic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=NC=C(C(=O)O)C=C1
reactant | [6-(2-azepan-1-ylethoxy)pyridin-3-ylmethyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 287 mg | N1(CCCCCC1)CCOC1=CC=C(C=N1)CN(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC | C34H45N3O3
product | 6-{2-{[6-(2-Azepan-1-ylethoxy)pyridin-3-ylmethyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 230 mg | N1(CCCCCC1)CCOC1=CC=C(C=N1)CN(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC | C32H41N3O3
